US06313132B1
33.4 N,N-Diisopropyl-3-[2-(3,5-dimethyl-4-hydroxyphenylazo)phenyl]-3-phenylpropenamide
A solution of potassium hydroxide (10.3 mL, 6 M) and N,N-diisopropyl-3-[2-(3,5-dimethyl-4-tosyloxyphenylazo)phenyl]-3-phenylpropenamide (3.5 g, 5.74 mmol) in ethanol (110 mL) was refluxed for 1 h. The mixture was acidified with hydrochloric acid (conc.) and the solvent evaporated. The residue was partioned between toluene and water. The organic layer was dried (MgSO4) and the solvent evaporated. The crude residue was chromatographed on silica (toluene-ethyl acetate 9:2). Yield 1.3 g (50%). 1H NNR (CDCl3) δ0.71 (d, 3H), 0.80 (br, 3H), 1.27 (d, 3H), 1.40 (d, 3H), 2.20 (s, 3H), 2.23 (s, 3H), 3.25 (m, 1H), 4.35 (m, 1H), 5.52 (brd, 1H), 6.05 and 6.60 (s, 1H), 7.00-7.80 (m, 11H).

reactant | potassium hydroxide | 6 M, 10.3 mL | [OH-].[K+]
reactant | N,N-diisopropyl-3-[2-(3,5-dimethyl-4-tosyloxyphenylazo)phenyl]-3-phenylpropenamide | 5.74 mmol, 3.5 g | C(C)(C)N(C(C=C(C1=CC=CC=C1)C1=C(C=CC=C1)N=NC1=CC(=C(C(=C1)C)OS(=O)(=O)C1=CC=C(C)C=C1)C)=O)C(C)C | C36H39N3O4S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 110 mL | C(C)O | C2H6O
product | N,N-Diisopropyl-3-[2-(3,5-dimethyl-4-hydroxyphenylazo)phenyl]-3-phenylpropenamide | C(C)(C)N(C(C=C(C1=CC=CC=C1)C1=C(C=CC=C1)N=NC1=CC(=C(C(=C1)C)O)C)=O)C(C)C | C29H33N3O2
